US08431573B2
4-[4-(2-Hydroxyethyl)piperidin-1-yl]-2-[2-(6-methoxypyridin-3-yl)benzyl]-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 80 mg (0.22 mmol) of 2-[2-(6-methoxypyridin-3-yl)-benzyl]-4-(methylsulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile are reacted with 85 mg (0.65 mmol) of 2-(4-piperidinyl)ethan-1-ol to give 62 mg (63% of theory) of the title compound.

reactant | 2-[2-(6-methoxypyridin-3-yl)-benzyl]-4-(methylsulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile | 0.22 mmol, 80 mg | COC1=CC=C(C=N1)C1=C(CC=2NC(C(=C(N2)SC)C#N)=O)C=CC=C1 | C19H16N4O2S
reactant | 2-(4-piperidinyl)ethan-1-ol | 0.65 mmol, 85 mg | N1CCC(CC1)CCO | C7H15NO
product | 4-[4-(2-Hydroxyethyl)piperidin-1-yl]-2-[2-(6-methoxypyridin-3-yl)benzyl]-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile | OCCC1CCN(CC1)C=1N=C(NC(C1C#N)=O)CC1=C(C=CC=C1)C=1C=NC(=CC1)OC | C25H27N5O3
